US09102591B2
2-Methyl-N-(1-methyl-4-phenyl-piperidin-4-ylmethyl)-benzamide
From 2-methylbenzoic acid and C-(1-methyl-4-phenyl-piperidin-4-yl)-methylamine. LCMS (MH+): m/z=323.1, tR (minutes, Method A)=0.56

reactant | 2-methylbenzoic acid | CC1=C(C(=O)O)C=CC=C1 | C8H8O2
reactant | C-(1-methyl-4-phenyl-piperidin-4-yl)-methylamine | CN1CCC(CC1)(C1=CC=CC=C1)CN | C13H20N2
product | 2-Methyl-N-(1-methyl-4-phenyl-piperidin-4-ylmethyl)-benzamide | CC1=C(C(=O)NCC2(CCN(CC2)C)C2=CC=CC=C2)C=CC=C1 | C21H26N2O
